US04171702
Isopropenyl isobutyrate was prepared by the potassium hydride catalyzed condensation of acetone with isobutyryl chloride as follows. A suspension of potassium hydride (100 g, 2.5 mol.) in 1.5 liters of dry tetrahydrofuran was prepared. The suspension was cooled to -10° C. and 200 ml acetone was slowly added maintaining the temperature of the reaction mixture between 0° and -10° C. The resulting solution of acetone enolate was added to a solution of 266 g (2.5 mol.) of isobutyryl chloride in 3 liters of tetrahydrofuran over a 30-minute period. The temperature of the reaction flask was maintained between -30° and -50° C. during the addition. After 16 hours the reaction mixture was poured into water and the resulting mixture was extracted with ether. The ether extracts were combined, dried over sodium sulfate, and the solvent was removed. The residue was distilled through a thin film evaporator (114° to 125° C.) and the distillate was redistilled through a spinning band column. The fraction boiling at 40° to 46° C. (1.5 mm Hg) was collected to give a total of 21 g (7%) of pure isopropenyl isobutyrate. The isopropenyl isobutyrate was polymerized according to the method described in Example 2 to give the corresponding polymer.

reactant | potassium hydride | [H-].[K+]
reactant | acetone | CC(=O)C | C3H6O
reactant | isobutyryl chloride | C(C(C)C)(=O)Cl | C4H7ClO
reactant | potassium hydride | 2.5 mol, 100 g | [H-].[K+]
reactant | acetone | 200 ml | CC(=O)C | C3H6O
reactant | isobutyryl chloride | 2.5 mol, 266 g | C(C(C)C)(=O)Cl | C4H7ClO
reactant | water | O | H2O
solvent | tetrahydrofuran | 1.5 liters | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 liters | O1CCCC1 | C4H8O
product | Isopropenyl isobutyrate | C(C(C)C)(=O)OC(=C)C | C7H12O2
